US04279918
1-benzyl-2-(3,4-dimethoxyphenyl)pyrrolidine
Dissolve 3 g of 1-benzyl-2-(3,4-dimethoxybenzylidene)pyrrolidine in ethanol and hydrogenate with platinum/hydrogen. Distil the hydrogenated product under a vacuum to obtain 2.3 g (77% of theory) of title compound (b.p. 173° at 0.007 mm of Hg).

reactant | 1-benzyl-2-(3,4-dimethoxybenzylidene)pyrrolidine | 3 g | C(C1=CC=CC=C1)N1C(CCC1)=CC1=CC(=C(C=C1)OC)OC | C20H23NO2
solvent | ethanol | C(C)O | C2H6O
catalyst | platinum hydrogen | [Pt].[H][H]
product | 1-benzyl-2-(3,4-dimethoxyphenyl)pyrrolidine | C(C1=CC=CC=C1)N1C(CCC1)C1=CC(=C(C=C1)OC)OC | C19H23NO2
